US08357703B2
c) (3-Butyl-isoxazol-4-yl)-methanol
To a solution of 3-butyl-isoxazole-4-carboxylic acid (27.8 g, 164 mmol in THF (495 mL) at −10° C. was added triethylamine (22.9 mL, 164 mmol) and then a solution of ethylchloroformate (15.7 mL, 164 mmol) in THF (85 mL) added keeping the temperature below −5° C. After 1 h the mixture was filtered and the filtrate cooled to −10° C. and a suspension of sodiumborohydride (31.1 g, 821 mmol) in water (165 mL) added over 15 minutes keeping the temperature below 10° C. The mixture was then allowed to warm up to room temperature overnight and diluted with sodium hydroxide (2 N, 82 mL) and extracted with ethyl acetate. The combined organic layers were then washed with water and brine, dried over sodium sulfate and evaporated to afford the title compound (18.6 g, 73%) which was obtained as a colorless liquid after kugelrohr distillation. Bp: 150° C. at 0.4 mbar. MS: m/e=150.1 [M]+.

reactant | 3-butyl-isoxazole-4-carboxylic acid | C(CCC)C1=NOC=C1C(=O)O | C8H11NO3
reactant | triethylamine | 164 mmol, 22.9 mL | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 164 mmol, 15.7 mL | C(C)OC(=O)Cl | C3H5ClO2
reactant | sodiumborohydride | 821 mmol, 31.1 g | [BH4-].[Na+]
solvent | THF | 495 mL | C1CCOC1 | C4H8O
solvent | THF | 85 mL | C1CCOC1 | C4H8O
solvent | water | 165 mL | O | H2O
solvent | sodium hydroxide | 2 N, 82 mL | [OH-].[Na+]
product | (3-Butyl-isoxazol-4-yl)-methanol | 18.6 g, 73% | C(CCC)C1=NOC=C1CO | C8H13NO2
